US04117019
470 parts of benzene are emulsified in a mixture of 200 parts of boron fluoride-phosphoric acid (containing 90 parts of boron fluoride in 110 parts of phosphoric acid) and 200 parts of sulfuric acid (85% strength by weight) by stirring thoroughly. A solution of 140 parts of o-xylyl chloride in 470 parts of benzene is added at from 75° to 80° C in the course of 2 hours. The reaction mixture is stirred for a further 5 hours at from 75° to 80° C and the organic phase is then separated off. 167 parts (91.8% of theory) of o-benzyltoluene (nD25 : 1.5739) are isolated by fractional distillation at from 98° to 100° C at 0.2 mm Hg.

reactant | boron fluoride phosphoric acid | B(F)(F)F.P(O)(O)(O)=O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | o-xylyl chloride | CC1=CC=CC=C1CCl | C8H9Cl
solvent | benzene | C1=CC=CC=C1 | C6H6
product | o-benzyltoluene | 91.8% | C(C1=CC=CC=C1)C1=C(C=CC=C1)C | C14H14
